US09290467B2
A) (S)-2-[(S)-2-(4-Allyloxy-3-chloro-phenyl)-1-methoxycarbonyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
In a 25 mL round-bottomed flask, (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (279 mg, 1.3 mmol, Eq: 1.00) and (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-aminopropanoate (350 mg, 1.3 mmol, Eq: 1.00) were combined with DMF (6 mL) to give a colorless solution. HATU (986 mg, 2.59 mmol, Eq: 2.00) and Hunig's base (335 mg, 453 μL, 2.59 mmol, Eq: 2.00) were added. The reaction mixture was stirred at 25° C. for 20 h. The reaction mixture was poured into saturated aqueous NaHCO3 solution and extracted with DCM (2×). The organic layers were combined, washed with water (3×) and brine (1×). The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 20 g, n-heptane/AcOEt 3/1, 2/1) to yield a yellow oil (570 mg; 94%). m/z=467.2 [M+H]+; 367.1 [M+H-Boc]+.

reactant | (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 1.3 mmol, 279 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-aminopropanoate | 1.3 mmol, 350 mg | C(C=C)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)N)Cl | C13H16ClNO3
reactant | HATU | 2.59 mmol, 986 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 2.59 mmol, 453 μL, 335 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)-2-[(S)-2-(4-Allyloxy-3-chloro-phenyl)-1-methoxycarbonyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(N[C@@H](CC1=CC(=C(C=C1)OCC=C)Cl)C(=O)OC)=O | C23H31ClN2O6
